US04202978
Sodium (2.3 g; 0.1 mol) was dissolved in 500 ml anhydrous MeOH and to this was added a solution of 194.3 g (1.17 mol) 4-hydroxyphenylacetic acid, methyl ester in 250 ml MeOH followed by a solution of 167.3 g. (1.018 mol) (S)-1,2-epoxy-3-benzyloxypropane in 250 ml MeOH. The solution was stirred under reflux for 12 hours. The cooled solution was treated with 8.3 ml (0.1 mol) of concentrated HCl and the methanol was removed in vacuo. The crude product was dissolved in benzene and washed with 2×200 ml portions of cold 1 N NaOH solution and with H2O (1×300 ml). The aqueous layers were backwashed with benzene (2×500 ml). The combined organic layers were dried (Na2SO4) and evaporated in vacuo to give crude (S)-4-(3-benzyloxy-2-hydroxypropoxy)phenyl acetic acid, methyl ester.

reactant | Sodium | 0.1 mol, 2.3 g | [Na] | Na
reactant | 4-hydroxyphenylacetic acid, methyl ester | 1.17 mol, 194.3 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | (S)-1,2-epoxy-3-benzyloxypropane | 1.018 mol | O1C[C@H]1COCC1=CC=CC=C1 | C10H12O2
reactant | HCl | 0.1 mol, 8.3 ml | Cl | ClH
solvent | MeOH | 500 ml | CO | CH4O
solvent | MeOH | 250 ml | CO | CH4O
solvent | MeOH | 250 ml | CO | CH4O
product | (S)-4-(3-benzyloxy-2-hydroxypropoxy)phenyl acetic acid, methyl ester | C(C1=CC=CC=C1)OC[C@@H](COC1=CC=C(C=C1)CC(=O)OC)O | C19H22O5
